US05231182
2,3-Dimethyl-1-[4-[[[4-(tetradecyloxy)phenyl]acetyl]amino]phenyl]-1H-imidazolium iodide
A mixture of 1.5 g of N-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-4-(tetradecyloxy)benzeneacetamide and 2.11 g of methyl iodide in 25 ml of toluene is refluxed under argon for 2 hours, cooled, diluted with ether and the solid collected. The cake is dried to give 1.8 g of the desired product as a white solid, m.p. 140°-143° C.

reactant | N-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-4-(tetradecyloxy)benzeneacetamide | 1.5 g | CC=1N(C=CN1)C1=CC=C(C=C1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C32H45N3O2
reactant | methyl iodide | 2.11 g | CI | CH3I
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 2,3-Dimethyl-1-[4-[[[4-(tetradecyloxy)phenyl]acetyl]amino]phenyl]-1H-imidazolium iodide | 1.8 g | [I-].CC1[NH+](C=CN1C)C1=CC=C(C=C1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | InChI=1S/C33H49N3O2.HI/c1-4-5-6-7-8-9-10-11-12-13-14-15-26-38-32-22-16-29(17-23-32)27-33(37)34-30-18-20-31(21-19-30)36-25-24-35(3)28(36)2;/h16-25,28H,4-15,26-27H2,1-3H3,(H,34,37);1H
